US07842696B2
Potassium carbonate (316 mg, 2.28 mmol) was added to a stirred solution of (1-diazo-2-oxo-propyl)-phosphonic acid dimethyl (400 mg, 2.08 mmol) and 4-formyl-benzoic acid (341 mg, 2.08 mmol) in MeOH (20 mL) and continued stirring at room temperature overnight. The reaction mixture was filtered and concentrated to get the residue. The residue obtained was diluted with DCM and organic phase was washed with 5% sodium bicarbonate and brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 310 mg (79.4% yield) 4-ethynyl-benzoic acid methyl ester.

reactant | Potassium carbonate | 2.28 mmol, 316 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-formyl-benzoic acid | 2.08 mmol, 341 mg | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | MeOH | 20 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-ethynyl-benzoic acid methyl ester | 310 mg, 79.4% yield | COC(C1=CC=C(C=C1)C#C)=O | C10H8O2
